US07479488B2
128q (R)-2-(3,5-dibromo-4-hydroxy-phenyl)-1-methoxycarbonyl-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
Under a nitrogen atmosphere 5.46 mL methanolic H2SO4 (0.5 M) were added to a solution of 4.30 g (5.69 mmol) of (R)-2-[3,5-dibromo-4-(2-trimethylsilanyl-ethoxymethoxy)-phenyl]-1-methoxy-carbonyl-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate in 40 mL THF and 40 mL MeOH and the reaction solution was stirred for 6 h at RT. The reaction mixture was evaporated down i.vac and the residue was reacted further without purification.

reactant | H2SO4 | 0.5 M, 5.46 mL | OS(=O)(=O)O | H2O4S
reactant | (R)-2-[3,5-dibromo-4-(2-trimethylsilanyl-ethoxymethoxy)-phenyl]-1-methoxy-carbonyl-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 5.69 mmol, 4.30 g | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@H](C(C1=CC(=C(C(=C1)Br)OCOCC[Si](C)(C)C)Br)=C=O)OC)C=CC=C2 | C31H39Br2N3O7Si
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | MeOH | 40 mL | CO | CH4O
product | (R)-2-(3,5-dibromo-4-hydroxy-phenyl)-1-methoxycarbonyl-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@H](CC1=CC(=C(C(=C1)Br)O)Br)C(=O)OC)C=CC=C2 | C25H27Br2N3O6
